US06034127
2-Chlorobenzenesulfonic acid 3-[[3-(N-methylamidino)phenyl]methoxy]-5-methylphenyl ester hydrochloride
To a solution of 2-chlorobenzenesulfonic acid 3-[(3-cyanophenyl)methoxy]-5-methylphenyl ester (414 mg, 1.0 mmol), as prepared in step (a) of Example 6, in methylene chloride (10 mL) was added 37% HCl in ethanol (15 mL) at 0° C. The mixture was allowed to stand at 0° C. for 3 days. The solvent was evaporated and the residue was concentrated in vacuo from methylene chloride several times. The residue was dissolved in ethanol (10 mL), treated with methylamine hydrochloride (270 mg, 4.0 mmol) and Na2CO3 (212 mg, 2.0 mmol), and then stirred at room temperature for 2 days. The reaction mixture was partitioned between metiylene chloride (150 mL) and 10% K2CO3. The organic phase was washed with 10% K2CO3 (50 mL) and dried over K2CO3. After removing the solvent in vacuo, HCl in methanol (30 mL) was added and the solvent was removed in vacuo. The residue was then purified by flash column chromatography (10% methanol/methylene chloride) and crystallized from methanol/ethyl acetate to give the title compound as white crystals (145 mg, 30%). 1H-NMR (300 MHz, DMSO-d6) δ 2.22 (s, 3H), 3.01 (s, 3H), 5.10 (s, 2 H), 6.53 (s, 1H), 6.56 (s, 1H), 6.87 (s, 1H), 7.58 (t, 1H, J=7.0 Hz), 7.63 (t, 1 H, J=7.6 Hz), 7.73 (m, 2H), 7.86 (m, 3H), 7.94 (d, 1H, J=4.0 Hz), 9.05 (br s, 1H), 9.55 (br s, 1H), and 9.94 (br s, 1H). Mass spectrum (MALDI-TOF, sinapinic acid matrix) calcd. for C22H21N2O4SCl: 445.1 (M+H). Found: 445.0.

reactant | 2-chlorobenzenesulfonic acid 3-[(3-cyanophenyl)methoxy]-5-methylphenyl ester | 1.0 mmol, 414 mg | C(#N)C=1C=C(C=CC1)COC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C=CC=C1)Cl | C21H16ClNO4S
reactant | HCl | Cl | ClH
reactant | methylamine hydrochloride | 4.0 mmol, 270 mg | Cl.CN
reactant | Na2CO3 | 2.0 mmol, 212 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-Chlorobenzenesulfonic acid 3-[[3-(N-methylamidino)phenyl]methoxy]-5-methylphenyl ester hydrochloride | 145 mg, 30% | Cl.CNC(=N)C=1C=C(C=CC1)COC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C=CC=C1)Cl | InChI=1S/C22H21ClN2O4S.ClH/c1-15-10-18(28-14-16-6-5-7-17(12-16)22(24)25-2)13-19(11-15)29-30(26,27)21-9-4-3-8-20(21)23;/h3-13H,14H2,1-2H3,(H2,24,25);1H
